US07153867B2
Preparation of 3,6-di-acetoamidophthalic anhydride:
3,6-diaminophthalic acid (0.21 g, 1.07 mmol) was dissolved in acetic anhydride (10 mL) at about 100° C., and stirred at this temperature for about 0.5 hour. After the reaction was cooled the product was filtered and washed with ether. A yellow precipitate was obtained (0.243 g, 86%). 1H NMR (300 MHz, DMSO) δ 9.85 (s, 2.0H, CONHAr), 8.29 (s, 2.1H, ArH), 2.17 (br s, 6.2H, COCH3).

reactant | 3,6-diaminophthalic acid | 1.07 mmol, 0.21 g | NC1=C(C(C(=O)O)=C(C=C1)N)C(=O)O | C8H8N2O4
solvent | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 3,6-di-acetoamidophthalic anhydride | C(C)(=O)NC1=C2C(C(=O)OC2=O)=C(C=C1)NC(C)=O | C12H10N2O5
